US09315475B2
Step 6: tert-Butyl (2R,5S)-2-[2-(3-amino-5-fluoropyridin-4-yl)ethyl]-5-({[tert-butyl(dimethyl)silyl]oxy}methyl)morpholine-4-carboxylate
Platinum(IV) oxide (0.536 g, 2.36 mmol) was suspended in nitrogen degassed trifluororoethanol. tert-Butyl (2R,5S)-2-[(3-amino-5-fluoropyridin-4-yl)ethynyl]-5-({[tert-butyl(dimethyl)silyl]oxy}methyl)morpholine-4-carboxylate (2.20 g, 4.72 mmol) (68% pure) was dissolved in nitrogen degassed trifluorethanol (94 mL) and added to the suspension of platinum oxide. The reaction was shaken on the Parr at 50 psi hydrogen for 24 hr. The reaction was degassed with nitrogen, filtered through celite and the solvent removed in vacuo. Purification on silica gel (330 g) eluting with a gradient of 0-100% EtOAc/hexanes afforded the title compound (1.52 g, 3.24 mmol, 69% yield) as a white solid, MS (ESI): m/z=470.51 (MH+); 100% pure by LCMS

reactant | tert-Butyl (2R,5S)-2-[(3-amino-5-fluoropyridin-4-yl)ethynyl]-5-({[tert-butyl(dimethyl)silyl]oxy}methyl)morpholine-4-carboxylate | 4.72 mmol, 2.20 g | NC=1C=NC=C(C1C#C[C@@H]1CN([C@@H](CO1)CO[Si](C)(C)C(C)(C)C)C(=O)OC(C)(C)C)F | C23H36FN3O4Si
catalyst | Platinum(IV) oxide | 2.36 mmol, 0.536 g | [Pt](=O)=O
product | tert-Butyl (2R,5S)-2-[2-(3-amino-5-fluoropyridin-4-yl)ethyl]-5-({[tert-butyl(dimethyl)silyl]oxy}methyl)morpholine-4-carboxylate | 3.24 mmol, 1.52 g, 69% yield | NC=1C=NC=C(C1CC[C@@H]1CN([C@@H](CO1)CO[Si](C)(C)C(C)(C)C)C(=O)OC(C)(C)C)F | C23H40FN3O4Si
